L0 (net4 net9) inductor
C4 (IB1 VSS) capacitor
C3 (net6 net9) capacitor
C2 (net5 net4) capacitor
C1 (net15 net9) capacitor
C0 (net15 net4) capacitor
M1 (net9 net5 IB1 VSS) nmos4
M0 (net4 net6 IB1 VSS) nmos4
R1 (VB1 net6) resistor
R0 (VB1 net5) resistor